US08557830B2
Hydrazine hydrate (2.0 ml, 41 mmol) was slowly added to a solution of 4,6-dichloropyrimidine-5-carbaldehyde (7.2 g, 41 mmol) in MeOH (150 ml)-60° C. (nitromethane-dry ice bath) followed by triethylamine (6.8 mL, 49 mmol). The mixture was allowed to warm to rt and stirred for 2 h. MeOH was removed in vacuo and water (150 mL) was added. The mixture was extracted with EtOAc (3×80 mL). The combined organic layers were washed with brine (100 mL), dried over Na2SO4, and filtered through a glass funnel. Removal of solvent gave 4-chloro-1H-pyrazolo[3,4-d]pyrimidine (4.45 g, 71%). MS (ESI, pos. ion) m/z: 155 [M+H]+

reactant | Hydrazine hydrate | 41 mmol, 2.0 ml | O.NN
reactant | 4,6-dichloropyrimidine-5-carbaldehyde | 41 mmol, 7.2 g | ClC1=NC=NC(=C1C=O)Cl | C5H2Cl2N2O
reactant | nitromethane dry ice | [N+](=O)([O-])C.C(=O)=O
reactant | triethylamine | 49 mmol, 6.8 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 150 ml | CO | CH4O
product | 4-chloro-1H-pyrazolo[3,4-d]pyrimidine | 4.45 g, 71% | ClC1=C2C(=NC=N1)NN=C2 | C5H3ClN4
